US06440636B1
A total of 30 mmole of methacrylic chloride was added dropwise to a mixture of 20 mmole of the above-prepared α,α-dimethyl-3,5-bis(2-methoxyethoxymethoxy)-1-adamantanemethanol, 40 mmole of triethylamine, and 80 ml of THF, over about 30 minutes. The resulting mixture was stirred at room temperature for 6 hours after the completion of addition. Water was added to the reaction mixture, and the resulting mixture was then extracted with ethyl acetate, the organic layer was concentrated, and the concentrate was subjected to column chromatography on a silica gel to yield 1-(1-methacryloyloxy-1-methylethyl)-3,5-bis(2-methoxyethoxymethoxy)adamantane.

reactant | methacrylic chloride | 30 mmole | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | α,α-dimethyl-3,5-bis(2-methoxyethoxymethoxy)-1-adamantanemethanol | 20 mmole | CC(O)(C12CC3(CC(CC(C1)C3)(C2)OCOCCOC)OCOCCOC)C | C21H38O7
reactant | triethylamine | 40 mmole | C(C)N(CC)CC | C6H15N
reactant | THF | 80 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 1-(1-methacryloyloxy-1-methylethyl)-3,5-bis(2-methoxyethoxymethoxy)adamantane | C(C(=C)C)(=O)OC(C)(C)C12CC3(CC(CC(C1)C3)(C2)OCOCCOC)OCOCCOC | C25H42O8
